US09145413B2
a. (S)-1-Ethyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 61a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (178 mg, 1.39 mmol) in DMF (10.0 mL) was added (S)-1-ethyl-pyrrolidine-2-carboxylic acid (200 mg, 1.39 mmol), EDC (293 mg, 1.53 mmol) and HOBt.H2O (18.0 mg, 0.14 mmol). The reaction was stirred for 4 h then partitioned between EtOAc and water. The aqueous layer was then extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC, using 0-10% [2M NH3 in MeOH] in DCM, to give the title compound (190 mg, 54%). LCMS (Method 4): Rt 0.29 min, m/z 253.1 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 1.39 mmol, 178 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | (S)-1-ethyl-pyrrolidine-2-carboxylic acid | 1.39 mmol, 200 mg | C(C)N1[C@@H](CCC1)C(=O)O | C7H13NO2
reactant | EDC | 1.53 mmol, 293 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.14 mmol, 18.0 mg | O | H2O
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (S)-1-Ethyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 190 mg, 54% | FC=1C=CC(=NC1)NNC(=O)[C@H]1N(CCC1)CC | C12H17FN4O
